US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-hydroxy-2-pyridin-3-yl-ethyl)amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 296 mg, 1.51 mmol) and 2-amino-1-pyridin-3-ylethanol (Preparation 98, 214 mg, 1.55 mmol) in DMF (10 mL) was added HOBt (225 mg, 1.47 mmol), DIPEA (0.55 mL, 3.16 mmol) and EDCI (340 mg, 1.77 mmol). After stirring at rt for 12 h the solvent was removed in vacuo and the residue then taken up in THF (150 mL) and washed with diluted sodium hydroxide solution (1M, 50 mL) and brine (2×50 mL). The solution was dried (MgSO4) and concentrated to an oil that was further purified by flash chromatography on silica gel (eluent: DCM/methanol: 90/10+0.5% triethylamine) to give the title compound as off-white solid. δH (d6 DMSO): 3.53 (2H, m), 4.85 (1H, m), 5.75 (1H, d), 7.15 (1H, s), 7.37 (1H, dd), 7.75 (2H, m), 8.47 (1H, m), 8.57 (1H, s), 8.89 (1H, appt), 12.24 (1H, s); m/z (ES+)=317.17 [M+H]+; RT=2.71 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 1.51 mmol, 296 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-amino-1-pyridin-3-ylethanol | 1.55 mmol, 214 mg | NCC(O)C=1C=NC=CC1 | C7H10N2O
reactant | HOBt | 1.47 mmol, 225 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.16 mmol, 0.55 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.77 mmol, 340 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-hydroxy-2-pyridin-3-yl-ethyl)amide | OC(CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)C=1C=NC=CC1 | C15H13ClN4O2
